US08217028B2
EDCI (187 mg) and HOBT (149 mg) were added to a solution of 3-cyano-4-[(1-methylethyl)oxy]benzoic acid (100 mg) in THF (5 mL). The mixture was stirred at room temperature for 1 hour followed by addition of ethyl 3-{5-[(Z)-(hydroxyamino)(imino)methyl]-1H-indol-2-yl}propanoate (D31) (201 mg). The resulting mixture was stirred at room temperature for 2 hrs followed by addition of TBAF (510 mg). The reaction vessel was sealed and heated in Biotage Initiator to 120° C. for 2 hrs. After cooling the reaction, THF was removed. The residue was dissolved in EtOAc. The organic solution was washed with saturated aqueous sodium bicarbonate solution. The organic solution was dried over anhydrous sodium sulfate. The dried solution was concentrated. The residue was purified by column chromatography to afford ethyl 3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]propanoate (D114) (68 mg). The product was directly used in the next step without identification.

reactant | EDCI | 187 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 149 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-cyano-4-[(1-methylethyl)oxy]benzoic acid | 100 mg | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | ethyl 3-{5-[(Z)-(hydroxyamino)(imino)methyl]-1H-indol-2-yl}propanoate | 201 mg | ON\C(\C=1C=C2C=C(NC2=CC1)CCC(=O)OCC)=N/[H] | C14H17N3O3
reactant | TBAF | 510 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]propanoate | 68 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=C(NC2=CC1)CCC(=O)OCC | C25H24N4O4
